US09226922B2
To a solution of (S)-methyl 2-amino-2-phenylacetate (1.0 g, 6.06 mmol) in anhydrous MeOH (20 mL) was added 4-methoxy benzaldehyde (0.82 g, 6.06 mmol) and few drops of HOAc. After 30 min, the reaction mixture was cooled to 0° C., NaBH4 (0.69 g, 12.12 mmol) was added and the contents were stirred at ambient temperature. After 2 h, the reaction was quenched with ice cold H2O (10 mL), MeOH was removed under reduced pressure and the organic contents were extracted with EtOAc (3×25 mL). The combined organic extracts were washed with brine (1×20 mL), dried over Na2SO4, concentrated and (S)-methyl 2-((4-methoxybenzyl)amino)-2-phenylacetate thus obtained was taken directly for step 2. MS: [M+H]+ m/z 286.

reactant | (S)-methyl 2-amino-2-phenylacetate | 6.06 mmol, 1.0 g | N[C@H](C(=O)OC)C1=CC=CC=C1 | C9H11NO2
reactant | 4-methoxy benzaldehyde | 6.06 mmol, 0.82 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | HOAc | CC(=O)O | C2H4O2
reactant | NaBH4 | 12.12 mmol, 0.69 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (S)-methyl 2-((4-methoxybenzyl)amino)-2-phenylacetate | COC1=CC=C(CN[C@H](C(=O)OC)C2=CC=CC=C2)C=C1 | C17H19NO3
